US05986089
81 g of 95% pure moenomycin A dissolved in 7 L of aqueous buffer solution, pH 7.9, conductivity 10.5 mS/cm (resulting from DEAE purification and ultrafiltration), are loaded onto a column with a capacity of 2.7 L (W×H=10 cm×35 cm) and packed with MCI GEL® CHP20P. Elution is carried out with a linear gradient from buffer A (m/15 phosphate buffer, pH 7.8) to buffer B (m/15 phosphate buffer, pH 7.8 with 33% 2-propanol). The column flow is fractionated and analyzed. The fractions with at least 98.8% pure moenomycin A are collected and, after removal of the salts as described in Example 4, dried, resulting in 71 g of 99.3% pure moenomycin A with 0.4% moenomycin A12 as concomitant substance.

reactant | moenomycin A | 81 g | C[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)NC(=O)C)O[C@@H]3[C@H]([C@]([C@H](O[C@@H]3OP(=O)(O)OC[C@@H](C(=O)O)OC/C=C(\C)/CC/C=C/C(C)(C)CCC(=C)C/C=C(\C)/CCC=C(C)C)C(=O)N)(C)O)OC(=O)N)CO[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)NC(=O)C)O)O[C@H]5[C@@H]([C@H]([C@H]([C@H](O5)C(=O)NC6=C(CCC6=O)O)O)O)O | C69H108N5O34P
reactant | DEAE | CCN(CC)CCO | C6H15NO
product | moenomycin A12 | 0.4% | C[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)NC(=O)C)O[C@@H]3[C@H]([C@@H]([C@H](O[C@@H]3OP(=O)(O)OC[C@H](C(=O)O)OC/C=C(/C)\CC/C=C/C(C)(C)CCC(=C)C/C=C(\C)/CCC=C(C)C)C(=O)N)O)OC(=O)N)CO[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)NC(=O)C)O)O[C@H]5[C@@H]([C@H]([C@H]([C@H](O5)C(=O)NC6=C(CCC6=O)O)O)O)O | C68H106N5O34P
